US04298739
1.3 Grams of 5-(3-carboxy-2-methylpropoxy)-3,4-dihydrocarbostyril and 0.8 ml of triethylamine are added to 50 ml of DMF, and the mixture is added dropwise with 0.65 ml of isobutyl chloroformate under external ice cooling and agitation at internal temperature of 0° to 10° C. After this dropwise addition, the mixture is agitated at room temperature for 30 minutes, added dropwise with 0.7 g of N-ethylcyclohexylamine and further agitated at room temperature for 2 hours. The solvent is distilled off and the residue is dissolved in 200 ml of chloroform, washed with diluted hydrochloric acid, aqueous K2CO3 solution and water in that order and then dried with anhydrous Na2SO4. After filtering off the inorganic matter, the mother liquor is concentrated and the residue is recrystallized from ligroin-benzene to obtain 0.8 g of 5-[3-(N-cyclohexyl-N-ethylaminocarbonyl)-2-methylpropoxy]-3,4-dihydrocarbostyril in the form of colorless needle-like crystals. m.p. 114°-115.5° C.

reactant | 5-(3-carboxy-2-methylpropoxy)-3,4-dihydrocarbostyril | C(=O)(O)CC(COC1=C2CCC(NC2=CC=C1)=O)C | C14H17NO4
reactant | triethylamine | 0.8 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 0.65 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-ethylcyclohexylamine | 0.7 g | C(C)NC1CCCCC1 | C8H17N
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 5-[3-(N-cyclohexyl-N-ethylaminocarbonyl)-2-methylpropoxy]-3,4-dihydrocarbostyril | 0.8 g | C1(CCCCC1)N(C(=O)CC(COC1=C2CCC(NC2=CC=C1)=O)C)CC | C22H32N2O3
